### PR TITLE
Binary reducibility/validity relation

### PR DESCRIPTION
**Pull request by kyoDralliam**
This PR changes the core representation of the logical relation replacing the unary reducibility relation `[Γ ||-<l> A]` by the binary relation `[Γ ||-<l> A ≅ B]` representing reducible convertibility. The original judgement can be recovered using the diagonal `[Γ ||-<l> A ≅ A]`. A similar change is propagated for the validity relation (that becomes entirely binary, relating two convertible contexts).

Main highlights of the PR:
- The definition of the logical relation is splitted in various files in `LogicalRelation/Definition`
- The logical relation is slightly weakened: in `isLRFun` the type parameter `A` for a term `tLam A t` is merely required to be well typed and (syntactically) convertible to the domain of its reducible dependent product type, and similarly in `isLRPair` the type parameters `A` and `B` appearing in `tPair A B a b` are merely required to be well-typed and convertible to the adequate types coming from the reducible sigma type.
- The logical relation is now organized so that any witness easily provides the canonical weak-head normal forms associated to its endpoints (see the typeclasses `WhRedTyRel` and `WhRedTmRel` in `LogicalRelation/Definition/Prelude.v` as well as the inversions derived at the end of `LogicalRelation/Induction.v` now replacing `ShapeView.v`).
- The tactics `irrelevance/irrelevance0/irrelevanceRefl` and their cumulativity variants have disappeared, replaced by direct applications of lemmas (`irrLR`/`irrLREq`); that might be improved upon in a later PR.
- A new tactic `irrValid` solves validity goals up to irrelevance/symmetry/transitivity by specializing a tactic for PER based on a simple union-find data structure.

### CODE REVIEW

File: theories/TypingProperties/LogRelConsequences.v [hunk 1]
```diff
@@ -198,389 +132,271 @@ Qed.
...
+  - apply IdRedTmWhRedRel.
+Defined.
+(* whredtm_conv *)
+
 Section TermConstructors.
 
   Import DeclarativeTypingProperties DeclarativeTypingData.
 
-  Lemma escapeEqzero {Γ A B} (lr : [Γ ||-< zero > A]) :
+  (* TODO: Unused ? *)
```
Comment (MevenBertrand) [inline theories/TypingProperties/LogRelConsequences.v:149]:
```suggestion
```

Comment (MevenBertrand) [reply theories/TypingProperties/LogRelConsequences.v:149]: (It seems to actually be used afterwards)

File: theories/TypingProperties/LogRelConsequences.v [hunk 2]
```diff
@@ -198,389 +132,271 @@ Qed.
...
+    destruct (whredL lr) as [A'], (whredR lr) as [B']; cbn in *.
+    assert [Γ |-[de] A ⤳ A' : U] by (eapply subject_reduction; gtyping).
+    assert [Γ |-[de] B ⤳ B' : U] by (eapply subject_reduction; gtyping).
+    assert [Γ |-[de] A' : U] by boundary.
+    assert [Γ |-[de] B' : U] by boundary.
+    eapply convtm_exp; cycle -1; [eauto|..]; tea; gtyping.
+  Qed.
+
+
+  Lemma escapeEqzero {Γ A B} (lr : [Γ ||-< zero > A ≅ B]) :
```
Comment (MevenBertrand) [inline theories/TypingProperties/LogRelConsequences.v:180]: I did not know how to go without this rather annoying lemma, but maybe you have a better way?

File: theories/TypingProperties/LogRelConsequences.v [hunk 3]
```diff
@@ -198,389 +132,271 @@ Qed.
...
+  Proof.
+    split; [now apply _univ_conv_view|].
+    intros neT.
+    eapply Fundamental in H as [?? Hconv%redValidTm%(UnivEq zero)].
+    unshelve epose proof (invLREqL Hconv _ (NeType neT)) as [[] []]; [reflexivity|].
+    cbn in *; pose proof (redtywf_whnf redR (isType_whnf _ nfT')); now subst.
+  Qed.
+
+
+  Lemma NatPropEq_isNat {Γ : context} {t t' : term} :
```
Comment (MevenBertrand) [inline theories/TypingProperties/LogRelConsequences.v:305]: Should this lemma be here?

File: theories/TypingProperties/LogRelConsequences.v [hunk 4]
```diff
@@ -198,389 +132,271 @@ Qed.
...
+  Defined.
+
+  Lemma _nat_prop_inj (Γ : context) (wfΓ : [|-Γ]) (t t' : term) (Rt : NatPropEq Γ t t')
+    (nftt' := NatPropEq_isNat Rt) : nat_hd_view Γ (fst nftt') (snd nftt').
+  Proof.
+    induction Rt as [| ?? Rn| ?? []]; cbn; try easy; [|gtyping].
+    (unshelve now eapply (escapeTm (Nat.natRed wfΓ))); constructor.
+  Qed.
+
+  Lemma isNat_uniq {t} (p q : isNat t) : p = q.
```
Comment (MevenBertrand) [inline theories/TypingProperties/LogRelConsequences.v:319]: Shouldn't this go with the other `_uniq` lemmas?

File: theories/TypingProperties/LogRelConsequences.v [hunk 5]
```diff
@@ -198,389 +132,271 @@ Qed.
...
+  Lemma _id_prop_inj {Γ l A x y} {t t' : term} (IA : [Γ ||-<l> tId A x y ≅ tId A x y])
+   (Rt : IdPropEq (normRedId IA) t t') (nftt' := IdPropEq_isId Rt) :
+   id_hd_view Γ A x y (fst nftt') (snd nftt').
+  Proof.
+    induction Rt as [| ?? []]; cbn in * ; [split|gtyping].
+    - etransitivity; tea; now symmetry.
+    - eapply convtm_conv; tea; etransitivity; [symmetry|]; now eapply escapeTm.
+  Qed.
+
+  Lemma isId_uniq {t} (p q : isId t) : p = q.
```
Comment (MevenBertrand) [inline theories/TypingProperties/LogRelConsequences.v:368]: Same, should be moved.

File: theories/TypingProperties/LogRelConsequences.v [hunk 6]
```diff
@@ -198,389 +132,271 @@ Qed.
...
+Defined.
+(* whredtm_conv *)
+
 Section TermConstructors.
 
   Import DeclarativeTypingProperties DeclarativeTypingData.
 
-  Lemma escapeEqzero {Γ A B} (lr : [Γ ||-< zero > A]) :
+  (* TODO: Unused ? *)
+  Lemma escapeEqzero_fwd {Γ A B l} (lr : [Γ ||-< l > A ≅ B]) :
```
Comment (MevenBertrand) [inline theories/TypingProperties/LogRelConsequences.v:150]: Do this lemma and its friend belong here?

**Review by MevenBertrand — COMMENTED** [review]
I've only looked at `LogRelConsequences`, but nothing looks too fishy there, beyond lemmas out of place.

I hope the whitespace changes in various places on the algorithmic/declarative side will not make rebasing too hard for me, we'll see…

File: theories/LogicalRelation/Definition/Prelude.v [hunk 7]
```diff
@@ -0,0 +1,95 @@
...
+(** ** Preliminaries *)
+
+(** Instead of using induction-recursion, we encode simultaneously the fact that a type is reducible,
+  and the graph of its decoding, as a single inductive relation.
+  Concretely, the type of our reducibility relation is the following RedRel:
+  for some R : RedRel, R Γ A eqTy redTm eqTm says
+  that according to R, A is reducible in Γ and the associated reducible type equality
+  (resp. term reducibility, term reducible equality) are eqTy (resp. redTm eqTm).
+  One should think of RedRel as a functional relation taking two arguments (Γ and A) and returning
+  three outputs (eqTy, redTm and eqTm). *)
```
Comment (ppedrot) [inline theories/LogicalRelation/Definition/Prelude.v:25]: The comment above is outdated.

File: theories/TypingProperties/LogRelConsequences.v (hunk 1 above)
Comment (kyoDralliam) [reply theories/TypingProperties/LogRelConsequences.v]: comment removed

File: theories/TypingProperties/LogRelConsequences.v (hunk 2 above)
Comment (kyoDralliam) [reply theories/TypingProperties/LogRelConsequences.v:169]: There are possibly other things easier to do in this file, but it will wait another PR

File: theories/TypingProperties/LogRelConsequences.v (hunk 3 above)
Comment (kyoDralliam) [reply theories/TypingProperties/LogRelConsequences.v]: moved to `LogicalRelation/Definition/Nat.v'

File: theories/TypingProperties/LogRelConsequences.v (hunk 4 above)
Comment (kyoDralliam) [reply theories/TypingProperties/LogRelConsequences.v]: There were no proper place yet, so I moved it to `NormalForms.v`

File: theories/TypingProperties/LogRelConsequences.v (hunk 5 above)
Comment (kyoDralliam) [reply theories/TypingProperties/LogRelConsequences.v]: moved to `NormalForms.v`

File: theories/TypingProperties/LogRelConsequences.v (hunk 6 above)
Comment (kyoDralliam) [reply theories/TypingProperties/LogRelConsequences.v:139]: I don't really see where they would belong otherwise

File: theories/LogicalRelation/Definition/Prelude.v (hunk 7 above)
Comment (kyoDralliam) [reply theories/LogicalRelation/Definition/Prelude.v]: Corrected (I thought I did correct it at some point...)

**Review by ppedrot — APPROVED** [review]
This dev is indeed in a much better shape after this PR.

File: theories/TypingProperties/LogRelConsequences.v (hunk 6 above)
Comment (MevenBertrand) [reply theories/TypingProperties/LogRelConsequences.v:139]: I was wondering whether they would fit in the logical relation files somewhere, but let's keep them here for now.
